US08895313B2
2-{4-[2-(2-Aminophenyl)-vinyl]-phenyl}-6-methylbenzothiazole
Prepared as described in the Nitro Reduction section using 2-{4-[2-(2-nitrophenyl)-vinyl]-phenyl}-6-methylbenzothiazole (0.10 g, 0.268 mmol) and tin (II) chloride dihydrate (0.48 g, 2.15 mmol) in EtOH (3 ml) to give the title compound (0.036 g, 39%) as a yellow solid after work-up and flash chromatography (20:1 DCM/EtOAc).

reactant | 2-{4-[2-(2-nitrophenyl)-vinyl]-phenyl}-6-methylbenzothiazole | 0.268 mmol, 0.10 g | [N+](=O)([O-])C1=C(C=CC=C1)C=CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C | C22H16N2O2S
reactant | tin (II) chloride dihydrate | 2.15 mmol, 0.48 g | O.O.[Sn](Cl)Cl
reactant | DCM EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | EtOH | 3 ml | CCO | C2H6O
product | 2-{4-[2-(2-Aminophenyl)-vinyl]-phenyl}-6-methylbenzothiazole | 0.036 g, 39% | NC1=C(C=CC=C1)C=CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C | C22H18N2S
